US07300939B2
A satd ethanolic HCl soln (4 ml) was added to a solution of 220 mg (0.63 mmol) of tert-butyl 4-[5-(3-methyl-[1,2,4]-oxadiazol-5-yl)thiazol-2-yl]-piperazine-1-carboxylate [Precursor BBB62] in DCE (10 ml). After stirring at RT 5 min, the reaction solution was concentrated in vacuo. The residue was taken up in DCM and washed successively with a 1% strength aq. NaOH soln and water. The organic phase was dried over MgSO4, filtered and concentrated in vacuo. 152 mg (0.61 mmol, 96%) of 1-[5-(3-methyl-[1,2,4]-oxadiazol-5-yl)thiazol-2-yl]piperazine were obtained here.

reactant | HCl | Cl | ClH
reactant | tert-butyl 4-[5-(3-methyl-[1,2,4]-oxadiazol-5-yl)thiazol-2-yl]-piperazine-1-carboxylate | 0.63 mmol, 220 mg | CC1=NOC(=N1)C1=CN=C(S1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N5O3S
solvent | DCE | 10 ml | ClCCCl | C2H4Cl2
product | 1-[5-(3-methyl-[1,2,4]-oxadiazol-5-yl)thiazol-2-yl]piperazine | 0.61 mmol, 152 mg, 96% | CC1=NOC(=N1)C1=CN=C(S1)N1CCNCC1 | C10H13N5OS
